2202-06-09 06:34:00 Physician Resident Progress Note
Chief Complaint: - CVL placed
   - CVP is 3 and mix venous O2 sat is 88% --> bolused 4LNS
   - Abx broadened from vanco/levo -> vanco/levo/cefepime/flagyl
   - 80 cc of urine overnight
   24 Hour Events:
 PICC LINE - START [**2202-6-8**] 12:00 PM
   SINGLE LUMEN
 EKG - At [**2202-6-8**] 12:30 PM
 MULTI LUMEN - START [**2202-6-8**] 04:55 PM
 PICC LINE - STOP [**2202-6-8**] 06:35 PM
   SINGLE LUMEN
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2202-6-8**] 01:09 PM
   Cefipime - [**2202-6-8**] 06:39 PM
   Metronidazole - [**2202-6-9**] 04:15 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2202-6-8**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-6-9**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.6
C (96.1
   HR: 110 (85 - 110) bpm
   BP: 80/44(51) {77/36(46) - 107/68(75)} mmHg
   RR: 23 (20 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.3 kg (admission): 74 kg
    CVP: 9 (3 - 9)mmHg
   Mixed Venous O2% Sat: 88 - 88
                                Total In:
                                                                  3,113 mL
                                                                  2,725 mL
   PO:
                                TF:
   IVF:
                                                                  2,571 mL
                                                                  2,725 mL
   Blood products:
                                                                    542 mL
   Total out:
                                                                     25 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,088 mL
                                                                  2,725 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 95%
   ABG: 7.19/45/40/18/-11
   Physical Examination
   Gen; ill appearing, somnolent
   HEENT: eomi
   CV: irreg irreg, no m/r/rg
   pulm: coarse rhonchi throughout
   abd: soft, NT, ND, bowel sounds present
   ext: + pitting edema, weeeping ext
   Labs / Radiology
   384 K/uL
   10.0 g/dL
   41 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.3 mEq/L
   15 mg/dL
   114 mEq/L
   141 mEq/L
   32.2 %
   20.7 K/uL
        [image002.jpg]
                             [**2202-6-5**]  12:30 AM
                             [**2202-6-5**]  01:14 AM
                             [**2202-6-5**]  05:40 AM
                             [**2202-6-5**]  01:45 PM
                             [**2202-6-8**]  03:03 PM
                             [**2202-6-8**]  07:33 PM
                             [**2202-6-9**]  05:22 AM
   WBC
   7.9
   19.0
   20.7
   Hct
   31.8
   34.1
   32.2
   Plt
   [**Telephone/Fax (3) 7375**]
   Cr
   1.3
   2.0
   2.2
   TropT
   0.23
   0.21
   0.21
   0.17
   0.23
   TCO2
   18
   Glucose
   60
   83
   41
   Other labs: PT / PTT / INR:19.5/38.9/1.8, CK / CKMB /
   Troponin-T:34//0.23, ALT / AST:[**7-2**], Alk Phos / T Bili:92/0.6, Amylase
   / Lipase:/26, Differential-Neuts:87.9 %, Band:0.0 %, Lymph:4.2 %,
   Mono:2.6 %, Eos:4.9 %, Fibrinogen:797 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:234 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 79 y.o with hx ischemic cardiomyopathy, CRF, DM, PVD,
   tachy-brady syndrome who was admitted for bradycardia vs. syncope now
   here septic shock and respiratory shock with no clear infectious
   source..
   .
   1.  Septic shock.  Patient's source of infection is not clear.
   Possible etiologies include line sepsis, pneumonia, prostethic valve
   endocarditis, c. diff.  Patient had [**11-22**] blood cultures positive for
   MRSA on [**5-28**] with no clear source (?skin sound).  Additionally, had
   stenotrophomonas and klebsiella in his sputum at OSH.  Levoquin therapy
   for several weeks may have selected for a c. diff infection.  Also,
   gastric outlet obstruction noted on CXR is concerning for an abdominal
   infection.
   - ct torso to look for source of infection
   - currently on neo/vasopressin, will titrate neo if able & will add
   levophed if needed
   - levo/cefepime/flagyl to cover broadly for bacterial infections and c.
   diff
   - will switch vanco to linezolid given he has been on Vanco for several
   week and possibiltity of VRE
   - follow mixed venous o2 sats with goal > 70 (currently 88%)
   - f/u sputum, blood, urine cultures
   - consider repeat TTE or TEE if source of fevers remain unclear
   tomorrow
   .
   2.  Respiratory failure.  Patient developed respiratory distress in the
   setting of getting fluids.  Imaging and exam are consitent with fluid
   overload.  Vanco/cefepim will cover PNA, though this is less likely.
   - continue vanco/cefepime
   - intubated today to permit for fluid rescitatino
   .
   3.       Low urine output.   Patient has had 80 cc urine overnight and
   creatinine is rising.  Likely atn in setting of hypotension.
   -  renal consult
   - follow cr
   - renally dose all meds
   .
   3.  Distended abdomen.  Patient has had emesis with meals.  KUB shows
   significant gastric distention consistent with gastric outlet
   obstruction which improved with NG suction.  No residuals this AM.
   - trial of clamping NG tube and checking residuals in [**12-23**] hours
   - ct torso today
   .
   4. Syncope/ ?Cardiac arrest. Circumstances of the ?cardiac arrest were
   unclear as there is little documentation of the event. Likely vagal
   event while on the bedpan associated with bradycardia. He was
   reportedly bradycardic during prior [**Hospital3 3928**] stay and was told
   he would need a pacemaker but at the time he had refused.  Cards now
   following but will not place pacemaker until after infectious clears.
   - monitor on tele
   - hold all AV nodal agents
   .
   5. Hypothyroid.
   - Levothyroxine home dose.
   .
   6. DM.  Has hypoglycemic.
   -d/c ISS
   - hold glyburide
   .
   7. CAD: S/p CABG.
   - hold aspirin given GIB 9coffee ground emesis)
   - continue statin
   .
   8. Gout.
   - continue allopurinol
   .
   9. afib:
   - hold coumadin given GIB
   .
   10. asthma.
   - cont inhalers/nebs
   .
   FEN: NPO given respiratory status, replete electrolytes prn
   Prophylaxis: coumadin
   Access: peripherals, PICC
   Code: Now full code, changed from DNR/DNI in recent days.
   Communication: Patient, wife, [**Name (NI) 1094**] ([**Telephone/Fax (1) 7307**]
   Disposition: pending improvement of hemodynamics
   .
   [**First Name4 (NamePattern1) 2293**] [**Last Name (NamePattern1) 509**]
   [**Pager number 4797**]
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Comments: hypoglycemic
   Lines:
   22 Gauge - [**2202-6-8**] 12:00 PM
   Multi Lumen - [**2202-6-8**] 04:55 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Though patient has acute on chronic systolic heart failure with EF of
   35-40%, he is not on an ACEI or [**Last Name (un) 284**] due to hypotension requiring two
   pressors.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2293**] [**Last Name (NamePattern1) 509**], MD
   on:[**2202-6-9**] 11:47 ------

2202-06-09 09:22:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 y.o male with ischemic cardiomyopathy, CRF, DM, PVD, afib.
   tachy-brady syndrome-
   Recent [**Hospital1 **] [**Location (un) 78**] admission for AMS, had MRSA bactermia with unclear
   source, possible Klebsiella/Stenotrophomonas PNA
   Admitted several days ago with syncope either due to bradycardia vs
   vasovagal.
   Yesterday on medical floor, concern for sepsis (leukocytosis +
   hypotension+ hypoxia) prompting MICU transfer
   24 Hour Events:
 PICC LINE - START [**2202-6-8**] 12:00 PM
   SINGLE LUMEN
 EKG - At [**2202-6-8**] 12:30 PM
 MULTI LUMEN - START [**2202-6-8**] 04:55 PM
 PICC LINE - STOP [**2202-6-8**] 06:35 PM
   SINGLE LUMEN
   *Mixed venous sat of 82%; CVP 3 initially- now [**10-31**] after fluid
   resuscitation
   *Vanc/LVQ/Cefipime/Flagyl
   *Continued shock requiring pressors, marginal urine output
   *Too tenuous to undergo CT last night
                               History obtained from [**Hospital 31**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2202-6-8**] 01:09 PM
   Cefipime - [**2202-6-8**] 06:39 PM
   Metronidazole - [**2202-6-9**] 04:15 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2202-6-8**] 08:17 PM
   Dextrose 50% - [**2202-6-9**] 06:20 AM
   Other medications:
   Vasopressin at 2.4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-6-9**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.6
C (96.1
   HR: 85 (85 - 110) bpm
   BP: 71/38(46) {71/36(46) - 107/68(75)} mmHg
   RR: 29 (20 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.3 kg (admission): 74 kg
   CVP: 8 (3 - 9)mmHg
   Mixed Venous O2% Sat: 88 - 88
                               Total In:
                                                                  3,113 mL
                                                                  2,829 mL
   PO:
                               TF:
   IVF:
                                                                  2,571 mL
                                                                  2,779 mL
   Blood products:
                                                                    542 mL
   Total out:
                                                                     25 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,088 mL
                                                                  2,830 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 853 (853 - 865) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.19/45/40/18/-11
   Ve: 1.5 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General Appearance:, Diaphoretic, tachypneic, appears ill
   Head, Ears, Nose, Throat: NG tube, BiPAP mask
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), irreg irreg
   Peripheral Vascular:), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: more at bases)
   Abdominal: Soft, Non-tender, , minimal BS, mildly distended, nontender
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   10.0 g/dL
   384 K/uL
   41 mg/dL
   2.2 mg/dL (was 1.4 yesterday)
   18 mEq/L
   4.3 mEq/L
   15 mg/dL
   114 mEq/L
   141 mEq/L
   32.2 %
   20.7 K/uL
        [image002.jpg]
                             [**2202-6-5**]  12:30 AM
                             [**2202-6-5**]  01:14 AM
                             [**2202-6-5**]  05:40 AM
                             [**2202-6-5**]  01:45 PM
                             [**2202-6-8**]  03:03 PM
                             [**2202-6-8**]  07:33 PM
                             [**2202-6-9**]  05:22 AM
   WBC
   7.9
   19.0
   20.7
   Hct
   31.8
   34.1
   32.2
   Plt
   [**Telephone/Fax (3) 7375**]
   Cr
   1.3
   2.0
   2.2
   TropT
   0.23
   0.21
   0.21
   0.17
   0.23
   TCO2
   18
   Glucose
   60
   83
   41
   Other labs: PT / PTT / INR:18.6/41.9/1.7, CK / CKMB /
   Troponin-T:34//0.23, ALT / AST:[**7-2**], Alk Phos / T Bili:92/0.6, Amylase
   / Lipase:/26, Differential-Neuts:87.9 %, Band:0.0 %, Lymph:4.2 %,
   Mono:2.6 %, Eos:4.9 %, Fibrinogen:797 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:234 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.0
   mg/dL
   Imaging: CXR (reviewed) increasing pulmonary edema/effusions
   Microbiology: NGTD
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Problem [**Name (NI) 198**]:
   Sepsis
   Acute renal failure
   Shock
   Acute respiratory distress/failure
   Acidosis (non-gap)
   79 yo male with [**Last Name (un) **] CM, tachy-brady syndrome, PVD, afib admitted with
   unresponsiveness at rehab thought secondary to vasovagal vs bradycardic
   event. Recent evolution of leukocytosis and fevers with clinical
   picture suggestive of sepsis with multi organ failure (shock,
   respiratory distress, oliguria). Despite broad spectrum antibiotics and
   volume resuscitation, his overall status has continued to decline.
   1. Acute respiratory failure related to sepsis and pulmonary edema
   - NIPPV started overnight for increased work of breathing
   - With ongoing septic picture, need for aggressive resuscitation and
   procedures- will move to intubation
   2. Sepsis-/shock
   - Still with SIRS physiology; on broad spectrum abx. Various potential
   sources (PNA, recent line, prosth. Valve endocarditis) but with lack of
   improvement despite broad spectrum abx, no organism recovery from
   cultures, and severity of sepsis, concerned over about an abdominal
   process
   - On vanc/Cef/Levaquin/flagyl- dose Vanc by levels
   - F/u Blood and urine cultures
   - CT Torso after intubation
   - Neo and vasopressin to maintain MAP>65
   - check cortisol level
   3. Acute renal failure-
   - Despite fluid resuscitation, oliguric overnight with rising
   creatinine likely from sepsis/ATN
   - Continue to trend renal function, monitor electrolytes closely
   - Anticipate he will need renal consult
   4. Abdominal distension-
   -KUB yesterday read as possible GOO, improved radiographic appearance
   after NG decompression
   - Will further evaluate on abdominal CT
   5. Tachy-brady syndrome- no active intervention given pt's more acute
   issues
   6. Recurrent hypoglycemia: will decrease SSI and monitor accuchecks
   7. CAD
 ASA off due to recent coffee grds emesis.
   8. Gout: d/c allopurinol due to renal failure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-6-8**] 12:00 PM
   Multi Lumen - [**2202-6-8**] 04:55 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill